US09084794B2
h) 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline
A flask was charged with a suspension of 7-quinolinyl trifluoromethanesulfonate (8.66 mmol), bis(pinacolato)diboron (10.39 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.432 mmol), 1,1′-bis(diphenylphosphino)ferrocene (0.433 mmol) and potassium acetate (26.0 mmol) in 1,4-dioxane (40 mL) and heated at 100° C. for 2 h. The resulting dark suspension was cooled to room temperature, taken up into ethyl acetate, washed with water (2×) and brine, dried (sodium sulfate), and evaporated to an oil (2.25 g). The oil was purified by flash chromatography (10-60% ethyl acetate in hexanes). The desired fractions were combined and evaporated to an oil that was taken up in dichloromethane and evaporated again in vacuo to afford the title product (1.72 g, 74% yield) as a pale yellow oil that solidified upon standing. MS(ES)+ m/e 256.2 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.34 (s, 12 H) 7.58 (dd, J=8.34, 4.04 Hz, 1 H) 7.80 (dd, J=8.08, 1.01 Hz, 1 H) 7.93-8.00 (m, 1 H) 8.34 (s, 1 H) 8.36-8.41 (m, 1 H) 8.95 (dd, J=4.29, 1.77 Hz, 1 H).

reactant | 7-quinolinyl trifluoromethanesulfonate | 8.66 mmol | FC(S(=O)(=O)OC1=CC=C2C=CC=NC2=C1)(F)F | C10H6F3NO3S
reactant | bis(pinacolato)diboron | 10.39 mmol | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 26.0 mmol | C(C)(=O)[O-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.432 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.433 mmol | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 1.72 g, 74% yield | CC1(OB(OC1(C)C)C1=CC=C2C=CC=NC2=C1)C | C15H18BNO2
